US06552022B1
5-Methoxy-4′-trifluoromethyl-biphenyl-2-carboxylic Acid Methyl Ester
To a stirred solution of 4-methoxy-2-(trifluoro-methanesulfonyloxy)-benzoic acid methyl ester (6.28 g) in toluene (100 mL) was added LiCl (2.54 g) and Pd(PPh3)4 (1.15 g). After few minutes at room temperature, a 2M solution of Na2CO3 (26 mL) was added followed by a solution of 4-trifluoromethylphenyl boronic acid (4.17 g) in EtOH (30 mL). The resulting mixture was stirred under reflux for 6 hours. The mixture was cooled to room temperature and the phases were separated. The organic layer was then dried over Na2SO4, filtered and evaporated under reduced pressure. The residue was purified by flash chromatography eluting with hexane/AcOEt (90/10) to give the title compound (5.7 g) as white crystals.

reactant | 4-methoxy-2-(trifluoro-methanesulfonyloxy)-benzoic acid methyl ester | 6.28 g | COC(C1=C(C=C(C=C1)OC)OS(=O)(=O)C(F)(F)F)=O | C10H9F3O6S
reactant | LiCl | 2.54 g | [Li+].[Cl-]
reactant | Na2CO3 | 26 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-trifluoromethylphenyl boronic acid | 4.17 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | Pd(PPh3)4 | 1.15 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Methoxy-4′-trifluoromethyl-biphenyl-2-carboxylic Acid Methyl Ester | 5.7 g | COC(=O)C=1C(=CC(=CC1)OC)C1=CC=C(C=C1)C(F)(F)F | C16H13F3O3
